US07872033B2
1-fluoro-N-hexylidene-2-methylpropan-2-amine
To a suspension of 1-fluoro-2-methylpropan-2-amine hydrochloride (ABCR) (2 g, 15.7 mmol), anhydrous magnesium sulfate (3.77 g, 31.4 mmol) and potassium carbonate (2.17 g, 15.68 mmol) in dichloromethane (100 mL) was added drop wise hexanal (1.93 mL, 15.7 mmol) at 0° C. The reaction mixture was stirred for 10 h at room temperature, then filtered and concentrated to obtain the title compound as a pale yellow liquid.

reactant | 1-fluoro-2-methylpropan-2-amine hydrochloride | 15.7 mmol, 2 g | Cl.FCC(C)(N)C
reactant | magnesium sulfate | 31.4 mmol, 3.77 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | potassium carbonate | 15.68 mmol, 2.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexanal | 15.7 mmol, 1.93 mL | C(CCCCC)=O | C6H12O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-fluoro-N-hexylidene-2-methylpropan-2-amine | FCC(C)(N=CCCCCC)C | C10H20FN
